Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pericardial effusion
 
Major Surgical or Invasive Procedure:
right heart catheterization and pericardiocentesis
 
History of Present Illness:
___ y/o M with no significant PMHx who was transferred to ___ 
for urgent pericardiocentesis for pericardial effusion with 
tamponade physiology. Patient was in his usual state of health 
until early ___ when he developed persistent low-grade 
fevers (99.5 to 100.5). He then developed right-sided arm pain, 
which prompted him to present to an OSH ED, where CXR showed 
cardiomegaly. Lyme serologies and a Monospot were negative. On 
exam, he had evidence of left-sided otitis media and was treated 
with 10-days of Amoxicillin therapy. He then presented to his 
PCP, who repeated CXR and found persistent cardiomegaly. Patient 
was then referred to ___ for echo today. This revealed 
pericardial effusion with tamponade physiology; pulsus paradoxus 
was 10. Pt was then transferred here for urgent 
pericardiocentesis.
.
In the cath lab, the patient underwent pericardial drain 
placement, with subsequent drainage of 500 cc from pericardium. 
BP was stable the entire time; however, patient has remained 
persistently tachycardic to the 120's. He received 3L IVF's 
prior to pericardiocentesis.  RHC was performed before and after 
pericardiocentesis and reportedly did not show significant 
change in pressures, raising concern for potential constrictive 
physiology.
.
On arrival to the ICU, the patient denied any complaints. He 
reports that, aside from his persistent fevers and right-sided 
arm pain, he has not experienced any other symptoms.
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or pre-syncope.
.
ROS: The patient denies a history of prior stroke/TIA, deep 
venous thrombosis or pulmonary embolus. He denies bleeding at 
the time of prior procedures or surgeries. Denies headaches or 
vision changes. No cough or upper respiratory symptoms. Denies 
chest pain, dizziness or lightheadedness; no palpitations. 
Denies shortness of breath. No nausea or vomiting, denies 
abdominal pain. No dysuria or hematuria. No change in bowel 
movements or bloody stools. Denies muscle weakness, myalgias or 
neurologic complaints. No exertional buttock or calf pain.   
.  

 
Past Medical History:
* CABG: None
* PERCUTANEOUS CORONARY INTERVENTIONS: None
* PACING/ICD: None
.
PAST MEDICAL & SURGICAL HISTORY:
1. s/p ORIF right lateral malleolar fracture (right ankle 
fracture, ___
2. s/p Removal of syndesmotic screws from right ankle (___)
 
Social History:
___
Family History:
Denies family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; grandmother with diabetes (died at age 
___, uncle with diabetes.
 
Physical Exam:
ADMISSION EXAM
VITALS: Temp 99.9 BP 155/86 HR 101 RR 22 SaO2 96% on 2LNC
GENERAL: Appears in no acute distress. Alert and interactive.
HEENT: Normocephalic, atraumatic. EOMI. PERRL. Mucous membranes 
moist. No xanthalesma.
NECK: Supple without lymphadenopathy. LVP difficult to assess.
___: PMI located in the ___ intercostal space, mid-clavicular 
line. Regular rhythm, without murmurs or gallops. S1 and S2 
normal. No S3 or S4. Tachycardic. Audible friction rub. 
Hyperdynamic precordium.
RESP: Respirations unlabored, no accessory muscle use. Clear to 
auscultation bilaterally without adventitious sounds. No 
wheezing, rhonchi or crackles. Stable inspiratory effort.
ABD: soft, non-tender, non-distended, with normoactive bowel 
sounds. No palpable masses or peritoneal signs. Abdominal aorta 
not enlarged to palpation, no bruit.
EXTR: no cyanosis, clubbing or edema, 2+ peripheral pulses
DERM: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSE EXAM:
Right: DP 2+   
Left: DP 2+ 
 
Pertinent Results:
ADMISSION RESULTS

___ 09:50AM BLOOD WBC-9.6 RBC-4.16* Hgb-12.3* Hct-36.8* 
MCV-88 MCH-29.5 MCHC-33.4 RDW-12.7 Plt ___
___ 09:34PM BLOOD Neuts-73.9* ___ Monos-6.9 Eos-0.9 
Baso-0.2
___ 09:34PM BLOOD ___ PTT-29.8 ___
___ 09:34PM BLOOD Glucose-108* UreaN-8 Creat-0.9 Na-139 
K-4.4 Cl-106 HCO3-28 AnGap-9
___ 09:34PM BLOOD ALT-33 AST-19 LD(LDH)-137 AlkPhos-152* 
TotBili-1.2
___ 09:34PM BLOOD Albumin-3.4* Calcium-8.4 Phos-3.4 Mg-2.0
___ 09:50AM BLOOD TSH-0.85
___ 04:54PM BLOOD Lactate-0.8

PERTINENT LABS AND STUDIES
___ 06:00PM PERICARDIAL FLUID WBC-763* Hct,Fl-5* Polys-57* 
Lymphs-33* ___ Macro-10*
___ 06:00PM PERICARDIAL FLUID TotProt-5.4 Glucose-91 
LD(LDH)-530 Amylase-24 Albumin-3.3
___ PERICARDIAL FLUID negative for malignant cells
___ ECHOCARDIOGRAM Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There is a large pericardial 
effusion, most prominent outside of the lateral and posterior 
walls. There is right ventricular diastolic collapse, consistent 
with impaired fillling/tamponade physiology. IMPRESSION: Large 
pericardial effusion, most suitable for pericardiocentesis via 
the lateral intercostal approach.  
___ CXR  Comparison is made with prior study performed 4 
hours earlier. There has been decrease in size in cardiac 
silhouette, now mildly enlarged.  There is mild 
pneumopericardium. If any, there are small bilateral pleural 
effusions. Aside from left lower lobe atelectasis, the lungs are 
clear. There is no pneumothorax. 
___ CXR There are low lung volumes.  Moderate-to-severe 
enlargement of the cardiac silhouette appears unchanged compared 
to the prior study. The mediastinal and hilar contours are 
within normal limits. Pulmonary vascularity is not engorged. No 
focal consolidation, pleural effusion, or pneumothorax is 
present. There are no acute osseous abnormalities. IMPRESSION: 
Unchanged enlargement of the cardiac silhouette without evidence 
of pulmonary vascular congestion. 
___ ECHOCARDIOGRAM Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. The mitral valve leaflets 
are structurally normal. There is no mitral valve prolapse. The 
estimated pulmonary artery systolic pressure is normal. There is 
a moderate sized pericardial effusion mostly located adjacent to 
the lateral and inferior walls. There is a trivial amount of 
pericardial fluid anterior to the right ventricle. There are no 
echocardiographic signs of tamponade. 

Compared with the prior study (images reviewed) of ___, 
the effusion is smaller and there is no echocardiographic 
evidence of tamponade.  

PENDING STUDIES:****
___ blood cultures x3 
___ PERICARDIAL FLUID
___ URINE CULTURE
___ 06:00PM PERICARDIAL FLUID ADENOSINE DEAMINASE, 
FLUID-PND
___ 06:46PM PERICARDIAL FLUID MYCOPLASMA PNEUMONIAE DNA, 
PCR-PND

 
Brief Hospital Course:
IMPRESSION/PLAN: ___ y/o M with no significant PMHx who was 
transferred to ___ for urgent pericardiocentesis for 
pericardial effusion with tamponade physiology in the setting of 
persistent fevers. 

# Pericardial Effusion - Mr. ___ was transferred to ___ from 
an OSH to have the pericardial fluid drained.  500cc of fluid 
was drained during the initial tap and subsequently drained an 
additional 120cc prior to removal.  A RHC was also performed at 
the time of pericardiocentesis which showed elevated right and 
left filling pressures with equilization of diastolic pressures. 
 Repeat echo after the drain was placed showed a smaller 
effusion with no evidence of tamponade physiology.  Another echo 
was obtained after the drain was removed showed smaller effusion 
with no echocardiographic evidence of tamponade.  He was started 
on ibuprofen during this admission to reduce pericardial 
inflammation, which he will continue for 3 weeks.  The etiology 
of the effusion remains unclear at the time of discharge.  Given 
that he has been having persistent fevers of unknown origin as 
well as the new pericardial effusion, an infectious etiology was 
thought to be most likely, however we also considered thyroid 
disease (had a normal TSH), malignancy and rheumatologic 
disease.  ID was consulted, as discussed below.  His HIV test 
was negative, PPD was placed and was also negative, ___ was 
negative.  ESR and CRP were elevated at 87 and 203, 
respectively.  The pericardial fluid had no growth and showed 1+ 
PMNs with no organisms on gram stain, there were no AFB.  The 
rest of his infectious work-up was unrevealing, as described 
below.
 
# Fever of unknown origin - He has had persistent fevers of 
unknown origin for several weeks now. CXR did not show clear 
evidence of an infectious process. He reportedly had tests for 
Lyme and Monospot which were negative at OSH.  The fevers were 
thought to be related to his pericardial effusion.  Infection 
was thought to be the primary cause, with viral etiologies being 
the most likely cause (echovirus, adenovirus, coxsackievirus, 
parvovorus).  Numerous serologies were ordered to evaluate for 
these infections, which were still pending at the time of 
discharge, Lyme was tested again and was negative.  As mentioned 
above, HIV and PPD were negative.  It is also possible that his 
fevers are caused by malignancy or rheumatologic disease, 
although he has no additional signs/symptoms to suggest either 
of these diagnoses.

# Tachycardia - Patient had sinus tachycardia during the first 2 
days of admission, which was noted to be somewhat correlated 
with when he had low grade fevers.  He remained asymptomatic 
during these episodes.  He appeared euvoluemic.  The tachycardia 
had resolved at the time of discharge, he was also afebrile for 
36 hours prior to discharge.

# Code status this admission - FULL CODE

#Transitional issues:
-Follow-up parvovirus, mycoplasma serologies and mcyoplasma PCR
-Follow-up pericardial fluid viral culture
-Will see ID after discharge regarding his ongoing fevers and 
recent pericardial effusion
 
Medications on Admission:
none
 
Discharge Medications:
1. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours for 3 weeks: After 3 weeks, take as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Pericardial effusion with pericardiocentesis
Fevers of unknown origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission to 
___.  You were admitted to the Cardiac Intensive Care Unit 
because you had fluid around your heart, called a pericardial 
effusion, which was drained. As you know, you had been having 
fevers of unclear origin for a number of weeks which we think is 
from the same process that caused your pericardial effusion.  
Numerous tests are still pending and we don't have a clear cause 
for the fevers and effusion, although the most likely cause 
would be a virus.  At the time of discharge, your effusion was 
smaller and there was no evidence that it wasi nterfering with 
your heart function.  You will follow-up with the infectious 
disease clinic after discharge.

Please note the following changes to your medications:
START ibuprofen 400mg by mouth every 8 hours for 3 weeks, then 
as needed for pain

 
Followup Instructions:
___